US07612114B2
(S)-6-{2-{Ethyl{3-fluoro-4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-N-(2-methoxyethyl)-N-methylacetamide (13 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.1 mg) was obtained.

reactant | pivalic acid (S)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-chloro-N-(2-methoxyethyl)-N-methylacetamide | 13 mg | ClCC(=O)N(C)CCOC | C6H12ClNO2
product | (S)-6-{2-{Ethyl{3-fluoro-4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.1 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN(C)CCOC)F | C32H41FN2O4
